US06632858B1
Step 1) Ethyl cyanoacetate (56.5 parts) was added dropwise over 0.25 hours to a stirred solution of ethanolamine (76.25 parts) in water (18 parts) while maintaining the temperature at less than 30° C. Ethyl acetoacetate (65 parts) was then added while maintaining the temperature at less than 30° C. The mixture was stirred at 90° C. for 20 hours, cooled and poured into water (500 parts), the product isolated by filtration, washed with water and dried to give 3-cyano-6-hydroxy4-methyl-1-(2-hydroxyethyl)pyrid-2-one (45 parts).

reactant | Ethyl cyanoacetate | C(#N)CC(=O)OCC | C5H7NO2
reactant | ethanolamine | C(O)CN | C2H7NO
reactant | Ethyl acetoacetate | C(CC(=O)C)(=O)OCC | C6H10O3
solvent | water | O | H2O
product | 3-cyano-6-hydroxy4-methyl-1-(2-hydroxyethyl)pyrid-2-one | C(#N)C=1C(N(C(=CC1C)O)CCO)=O | C9H10N2O3
